US08686002B2
5-Chloro-2-nitrobenzoic acid (25.0 g, 201.6 mmol) was placed in 250 mL dichloromethane and stirred for 5 minutes. After 17.0 mL triethylamine had been added at 25° C., the yellow suspension dissolved gradually. After storing for 10 minutes, the mixture was cooled to 5° C. Isobutyl chloroformate (16.25 mL, 122.8 mmol) was added by drops without dilution within 15 minutes. The reaction mixture was allowed to reach room temperature while stirring and stirring was continued for 1.5 hours. A light yellow precipitate was formed. The mixture was again cooled to 5° C. and 2,6-dimethoxybenzylamine (20.5 g, 122.8 mmol) was added by portions over a period of 20 minutes. For dilution, another 250 mL dichloromethane was added and the mixture was stirred for 15 minutes at 5° C. and then for 65 hours at room temperature. The reaction was monitored by thin layer chromatography, revealing traces of the starting materials. The batch was mixed with 5% citric acid, whereupon a precipitate formed and was filtered out. Product was still detected in the organic phase, so the organic phase was extracted again with 5% citric acid (1×), washed until neutral with sodium bicarbonate solution (1×) and extracted with sodium chloride solution. The organic phase was dried over sodium sulfate and the solvent was removed in vacuo. The solid yellow residue was suspended in diethyl ether/pentane as solvents, then filtered out and washed with diethyl ether. The two crystal products were combined and a pure 5-chloro-N-(2,6-dimethoxybenzyl)-2-nitrobenzamide was isolated. Yield: 31.3 g (89.2 mmol, 73%).

reactant | 5-Chloro-2-nitrobenzoic acid | 201.6 mmol, 25.0 g | ClC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C7H4ClNO4
reactant | Isobutyl chloroformate | 122.8 mmol, 16.25 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 2,6-dimethoxybenzylamine | 122.8 mmol, 20.5 g | COC1=C(CN)C(=CC=C1)OC | C9H13NO2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
solvent | triethylamine | 17.0 mL | C(C)N(CC)CC | C6H15N
product | 5-chloro-N-(2,6-dimethoxybenzyl)-2-nitrobenzamide | ClC=1C=CC(=C(C(=O)NCC2=C(C=CC=C2OC)OC)C1)[N+](=O)[O-] | C16H15ClN2O5
